US04363807
Sodium acetate (0.23 g.) was added to a solution of diphenylmethyl 7-(2-phenylacetamido)-3-formylcepham-4-carboxylate (0.5 g.) in acetic anhydride (2 ml.), and stirred at 50° C. for 1.5 hours. The resultant solution was added to ethyl acetate (60 ml.) and water (50 ml.) and adjusted to pH 7.2 with sodium bicarbonate. The organic layer was separated, washed with aqueous solution of sodium chloride and dried over magnesium sulfate. The solution was evaporated in vacuo to give diphenylmethyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate (0.4 g.).

reactant | Sodium acetate | 0.23 g | C(C)(=O)[O-].[Na+]
reactant | diphenylmethyl 7-(2-phenylacetamido)-3-formylcepham-4-carboxylate | 0.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O5S
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 ml | O | H2O
product | diphenylmethyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate | 0.4 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H28N2O6S
